US08877774B2
Step 2. Methyl 4-((3-(azido(phenyl)methyl)phenoxy)methyl)benzoate
To an ice-cooled suspension of methyl 4-((3-benzoylphenoxy)methyl)benzoate (1.62 g, 4.88 mmol) in methanol (20 mL), was added sodium borohydride (0.27 g, 7.32 mmol). The reaction mixture was allowed to warm to room temperature over 2 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic extracts were washed with brine, dried (MgSO4), and concentrated under reduced pressure to afford an oil. To a solution of the oil in toluene (25 mL), was added diphenylphosphoryl azide (1.26 mL, 5.85 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (881 μL, 5.85 mmol). The reaction mixture was stirred at 100° C. for 3 hours. The reaction mixture was allowed to cool to room temperature, diluted with ethyl acetate and washed with water, brine, dried (magnesium sulphate), filtered and concentrated. The crude material was purified by silica gel chromatography eluting with 0-10% ethyl acetate in iso-hexane to afford the title compound (1.62 g, 92% over 2 steps).

reactant | methyl 4-((3-benzoylphenoxy)methyl)benzoate | 4.88 mmol, 1.62 g | C(C1=CC=CC=C1)(=O)C=1C=C(OCC2=CC=C(C(=O)OC)C=C2)C=CC1 | C22H18O4
reactant | sodium borohydride | 7.32 mmol, 0.27 g | [BH4-].[Na+]
reactant | diphenylphosphoryl azide | 5.85 mmol, 1.26 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 5.85 mmol, 881 μL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | methanol | 20 mL | CO | CH4O
solvent | water | O | H2O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-((3-(azido(phenyl)methyl)phenoxy)methyl)benzoate | 1.62 g, 92% | N(=[N+]=[N-])C(C=1C=C(OCC2=CC=C(C(=O)OC)C=C2)C=CC1)C1=CC=CC=C1 | C22H19N3O3
